US04000143
Reaction of ethyl furan-3-carboxylate prepared by the method of Boyd et al, Synthesis, 545, (Oct. 1971) with 2-(2-amino-phenethyl)-1-methylpiperidine according to the procedure of Example 115 provides 2'-[2-(1-methyl-2-piperidyl)ethyl]-3-furancarboxanilide, m.p. 114.5° - 115.5° C. (corr.), from isopropyl ether and then ethyl acetate.

reactant | ethyl furan-3-carboxylate | O1C=C(C=C1)C(=O)OCC | C7H8O3
reactant | 2-(2-amino-phenethyl)-1-methylpiperidine | NC1=C(CCC2N(CCCC2)C)C=CC=C1 | C14H22N2
product | 2'-[2-(1-methyl-2-piperidyl)ethyl]-3-furancarboxanilide | CN1C(CCCC1)CCC1=C(NC(=O)C2=COC=C2)C=CC=C1 | C19H24N2O2
